Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Ace Inhibitors
 
Attending: ___.
 
Chief Complaint:
Mania, slight aphasia
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ year-old right-handed man with a PMH of ADHD, HTN, HLD, OSA 
and glucose intolerance who was brought to the ED by his wife 
for concern of new onset mania.

This history is obtained from both the ___ records as well as 
the patient. The patient denies most of the details regarding 
his recent behavior in ___ and his wife as left the ED "to go 
home and sleep" per the patient. 

Per the patient, he has been in his USOH until earlier this 
week. He states that he has been staying up late and been "up 
for the last two days" for work. He states that he has been 
completing a deadline and has to work long hours because his 
colleagues are based in ___. When asked to explain what 
type of work he is doing, he answers that he works for ___ 
___ and then starts to explain that he worked for a 
prior ___. His answers are  persistently tangential and 
it is difficult to get him to describe any recent events or 
symptoms aside from "my wife misled me to   bring me to the ED". 

When asked if he has a sense of the issues his wife was 
concerned about, he  reiterates that he had to stay up for work 
and that's why he is "flaky". 

Per the ___ notes from Psychiatry, his wife has noted a change 
in his behavior over the last 3 weeks. The patient is described 
as being  increasingly "impulsive" and "inappropriate", sending 
inappropriate  emails, "rambling" and engaging in excessive 
spending. He was reportedly awake all night and she found him 
sleeping on the couch after taking "melatonin". His co-worker 
expressed concern to his wife and they decided to take him to 
see
his PCP. There he was again described as tangential and referred 

to the ED for further investigation. 

Additionally, per the notes, his wife noted a few episodes of 
"word-finding difficulty today" that lasted only a few minutes. 
He has also reportedly had a few stumbling episodes recently. 

The patients refutes most of these details, as described above, 
explaining again that he has been working hard and that is why 
he has had to work. He does not think that anything he has done 
recently could be described as impulsive or inappropriate. He 
does not recall any falls, but says that his R leg is  sometimes 

stiff from a prior fusion. 

When asked directly, he does recall that he has had difficulty 
with his speech. It is difficult to get him to specify if this 
problem started today or if it was present prior. Most 
consistently, he answers that it started only today. He explains 

that "they call it pressured speech" but "it seems like I cant 
get the words together". During the interview, he has 2 episodes 

of difficulty with speech. 

The first occurred at the beginning of the interview, when the 
patient did not answer his name on introduction. I asked him 
several questions and he appeared confused, answering ___ 
intermittently. When asked repeated specific questions, he was 
unable to produce fluent answers and was silent or saying single 

consonants. Intermittently, there were briefly preserved phrases
such as "I totally disagree" but these responses do not appear 
to be related to the questions I am posing to him. There is no 
facial droop, weakness  dysarthria or gaze preference during the 

episode. It resolved spontaneously after about ___ minutes and 
he was immediately fluent. His speech was normal. He was not 
amnesic to the event but had difficulty describing it. He was 
able to
clarify that "I can't get the words out" but also noted "I can't 

think of the word". He states that he has "never experienced 
this before". There was a second episode lasting about ___ 
minutes later during the interview with the same 
characteristics. 

A similar episode was described during the psychiatry 
evaluation, During review of family hx and social hx, I asked pt 

if his mother had any psychiatric illness. Pt was silent for a 
short time then tried to speak but could not produce full words 
("ah... I wo...). He looked upset at the time, but not tearful. 
I then asked pt about unrelated topics; he was able to respond 
somewhat
better, but still with only brief ___ word responses, and with 
difficultly producing those. These symptoms lasted approximately 

___ minutes."

He denied any aura prior to the episode and denied olfactory, 
auditory or tactile hallucinations. He has had a "floater" in 
the left eye for several years but has not noticed a change in 
this recently. He denies sensory changes or weakness, numbness 
or tingling. He feels that if he "stops and meditates" his 
speech will improve. 

ROS:
The pt denied headache, loss of vision, blurred vision, 
diplopia, dysarthria, dysphagia, lightheadedness, vertigo, 
tinnitus or hearing difficulty. Denied difficulties 
comprehending speech.  Denied focal weakness, numbness, 
paraesthesia. No bowel or bladder incontinence or retention. 
Denied difficulty with gait. The pt denied recent fever or 
chills.  No night sweats or recent
weight loss or gain. Denied cough, shortness of breath.  Denied 
chest pain or tightness, palpitations.  Denied nausea, vomiting, 

diarrhea, constipation or abdominal pain.  No recent change in 
bowel or bladder habits.  No dysuria.  Denied arthralgias or 
myalgias. Denied rash.

 
Past Medical History:
- morbid obesity
- HTN 
- Hyperlipidemia
- ADD 
- right ankle fusion approximately ___ years ago
- obstructive sleep apnea
- glucose intolerance 
- basal cell carcinomas 
- appendectomy 
- tonsillectomy
- heart murmur (unknown etiology) but TTE in ___ showed nl valves
- two episodes of possible head injury one at age ___ associated
with falling off his bike and hitting his head w/ LOC. He had
multiple fractures and injuries from this, including a R arm
fracture w/ contracture and the R ankle fusion listed above. The
second episode occurred later when he fell off a wall and hit 
his
head with LOC. He sustained a broken arm 

 
Social History:
___
Family History:
Family History:
 no hx of neurological do's including sz or stroke
-mother: lung CA
-father: MI
-Sister: HLD, obesity
-Brother: "had to see a psychiatrist" to cope with "being gay"
-great grandaunt with stroke
 
Physical Exam:
Physical Exam:
Vitals: T: 98.2 P: 97 R: 16 BP: 148/71 SaO2: 100% RA 
General: Awake, cooperative, NAD, obese 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, + bruit, probably transmitted from murmur, No
nuchal rigidity 
Pulmonary: Lungs CTA bilaterally but with occasional expiratory
wheezes 
Cardiac: nl. S1S2, + ___ systolic ejection murmur heard
throughout 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities:large well healed scar on  R ankle and R arm; 1+
edema in RLE

Neurologic: 
-Mental Status: Alert, oriented x 3. No pressured speech but
speech arrest as described above. Very tangential but attentive,
able to name ___ backward without difficulty as well as Luria
sequencing.   Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects.  Able
to read without difficulty.  Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt. was able to
register 3 objects and recall ___ at 5 minutes but with a
paraphasic error (added sauce to the word apple) ___ with
prompting. Able to copy a figure w/o difficulty.  The pt. had
good knowledge of current events.  There was no evidence of
apraxia or neglect. His description of the cookie theft picture
"that's me about ___ and my mother ___ that good looking".
When asked about similarities between and orange and a tree he
answers "an orange has a peel and a tree has bark". For proverbs
(why do we say that people who live in glass houses shouldn't
throw stones?), he is concrete answering "because they will 
break
the windows".

CN
I: not tested
II,III:  VFF to confrontation, R Pupil 4.5mm->3.5mm and Left
pupil 4mm->3mm reactive to light, fundi normal 
III,IV,V: EOMI, no ptosis. No nystagmus
V:  sensation intact V1-V3 to LT
VII:  Facial strength intact/symmetrical, symm forehead 
wrinkling
VIII:  hears finger rub bilaterally
IX,X:  palate elevates symmetrically, uvula midline
XI:  SCM/trapezeii ___ bilaterally
XII:  tongue protrudes midline, no dysarthria

Motor: Normal bulk and tone; slight L pronator drift. No
asterixis or myoclonus. 

   Delt Bi Tri WE  FE  Grip  IO
   C5   C6 C7  C6  C7  C8/T1 T1
L  5    ___   5   5     5
R  5    5-  ___   5     5

   IP  Quad ___  ___    PF
   L2  L3   L4-S1 L4  L5     S1/S2
L  5   5    5     5   5      5
R  5   5    5     5   5      5

Reflex: No clonus
   Bi Tri Bra Pat An Plantar
   C5 C7  C6  L4  S1 CST
L  ___   2   2  Flexor
R  ___   2   2  Flexor

-Sensory: No deficits to light touch, but decreased cold
sensation, vibratory sense, proprioception in the lower
extremities R>L. No extinction to DSS. 

-Coordination: L>R postural tremor, mild dysdiadochokinesia with
FNF bilaterally. Nl HKS bilaterally. 

-Gait: Good initiation. Antalgic gait with visible limping of 
the
R hip. Romberg absent.

 
Pertinent Results:
Pertinent Results:
Admission Labs:
139  99  13  
------------/ 199   AGap=12 
3.6  28  0.9\ 

ALT: 54 AP: 128 Tbili: 1.0 AST: 93 LDH: 286 
TSH:2.5 Vit-B12:327 
UA positive for WBC ___ Leuk Tr Epi ___ Urobil 8 Bili Sm  
Utox: positive for Amphetamines 
Serum tox: negative

EKG: SR, rate 95, nl Axis, no ST changes 

Radiologic Data: 
NCHCT: No evidence of acute intracranial pathology. Per my read
there is a hypodensity in the R temporal lobe. I reviewed this
with the O/C radiologist who states this is most likely a 
choriod
fissue cyst

CXR: The lungs are well expanded and clear. The mediastinum is 
unremarkable. The cardiac silhouette is top normal for size with
a left ventricular configuration. No effusion or pneumothorax is
seen. The visualized osseous structures are intact with no
displaced fracture noted. In particular, no definite displaced
fracture of the sternum is seen on lateral view. 

MRI Head w and without gadolinium- ___
IMPRESSION: Except for a tiny focus of low signal on 
susceptibility images in the right periatrial white matter which 

could be artifactual or due to a tiny area of chronic 
microhemorrhage from previous trauma, no other abnormalities are 

seen. No mass effect, midline shift or hydrocephalus. No 
abnormal signal or atrophy in the medial temporal region to 
indicate mesial temporal sclerosis. No enhancing mass lesion. 

EEG- Normal study in the awake and drowsy states.

 
Brief Hospital Course:
Mr. ___ is a ___ year-old right handed man with a PMH of 
OSA, ADHD on Adderal for > ___ years, HTN, HLD, glucose 
intolerance and prior LOC in the context of trauma who was 
brought to the ED for concern for new onset mania.

1) Mania, NOS

Etiology of mania remains unclear. There is potential for 
adderral abuse as an inciting factor in context of sleep 
deprivation and other social stressors, however as per pt and 
his outpt psychiatrist's report, patient has no history of ever 
abusing his medications. The patient's neurologic examination in 
the ED was notable for intermittent difficulty in producing 
speech. He was admitted to the neurology service for 
evaluation of secondary causes of mania and speech disturbance. 
EEG was normal in the awake and drowsy states. MRI of the brain 
with gadolinium was unremarkable. The patient's adderall was 
rapidly tapered to off over 24 hours. A lumber puncture was 
attempted at the bedside in both lateral decubitis and upright 
positions without success. He may have an LP under fluoroscopy 
if deemed clinically necessary. The patient remained on a 1:1 
sitter for safety reasons. Repeated examinations on subsequent 
hospital days were notable for persistent tangential thinking 
and lack of insight. The patient was transferred to the 
inpatient psychiatry ward (Deac 4) and underwent improvement in 
his condition. By ___ upon interview, the patient was quite 
cooperative and displayed predominatly logical, linear thinking. 
Speech, did however, remain somewhat pressured, and the 
patient's recounting of the course leading up to his 
hospitalization was notable for fastidious attention to detail 
and lengthy, discursive recollections. Patient remained on 
___, was denied an emergency court hearing, and was 
amenable to taking 10 mg Aripiprazole on ___.

2) Elevated LFT's-
Unclear etiology at present. Admission AST and ALT are similar 
to those from ___. Consider NASH, alcoholic hepatitis, 

or occult infectious hepatitis. Further evaluation should 
proceed on an outpatient basis.
 

 
Medications on Admission:
ADDERALL 20 mg Tablet - Tablet(s) by mouth
VIAGRA 100 mg Tablet - 0.25 to 1 Tablet(s) by mouth as directed
SIMVASTATIN 40 mg Tablet - ___ Tablet(s) by mouth once a day
VALSARTAN 160 mg Tablet - 1 Tablet(s) by mouth once a day
ASPIRIN 81 mg Tablet PO QD 
NAPROXEN SODIUM 220 mg Tablet - ___ Tablet(s) by mouth bid 
 
Discharge Medications:
1. Aripiprazole 10 mg Tablet Sig: One (1) Tablet PO QAM (once a 
day (in the morning)). Tablet(s) 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
manic episode, NOS

 
Discharge Condition:
improved

 
Discharge Instructions:
please take all medications as prescribed 
 
Followup Instructions:
___